US08039499B2
Under nitrogen atmosphere, a mixture of 0.30 g of methyl (1R)-trans-2,2-dimethyl-3-[(E)-2-methyl-3-oxo-1-propenyl]cyclopropanecarboxylate, 0.17 g of O-isopropylhydroxylamine hydrochloride and 2 ml of pyridine was stirred at room temperature for 6 hours. Then, ethyl acetate was added to the reaction mixture, and the mixture was washed with 1 mol/L hydrochloric acid and saturated brine respectively. The organic layer was dried over anhydrous magnesium sulfate, then, filtrated, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.27 g of methyl (1R)-trans-3-[(E)-3-isopropoxyimino-2-methyl-1-propenyl]-2,2-dimethylcyclopropanecarboxylate:

reactant | methyl (1R)-trans-2,2-dimethyl-3-[(E)-2-methyl-3-oxo-1-propenyl]cyclopropanecarboxylate | 0.30 g | CC1([C@@H]([C@H]1\C=C(\C=O)/C)C(=O)OC)C | C11H16O3
reactant | O-isopropylhydroxylamine hydrochloride | 0.17 g | Cl.C(C)(C)ON
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1R)-trans-3-[(E)-3-isopropoxyimino-2-methyl-1-propenyl]-2,2-dimethylcyclopropanecarboxylate | 0.27 g | C(C)(C)ON=C/C(=C/[C@H]1C([C@@H]1C(=O)OC)(C)C)/C | C14H23NO3
